US09371320B2
H) tert-butyl 3,3-difluoro-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidine-1-carboxylate
To a mixture of tert-butyl 3,3-difluoro-4-(4-(((trifluoromethyl)sulfonyl)oxy)phenyl)piperidine-1-carboxylate (272 mg), bis(pinacolato)diboron (186 mg) and potassium acetate (179 mg) in 1,4-dioxane (5 mL) was added dichloro(1,1′-bis(diphenylphosphino)ferrocene)palladium(II) (45 mg) under nitrogen atmosphere. The reaction mixture was stirred at 90° C. for 3 hr. The insoluble substance was removed by the filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by thin layer silica gel chromatography (ethyl acetate/petroleum ether) to give the title compound (155 mg).

reactant | tert-butyl 3,3-difluoro-4-(4-(((trifluoromethyl)sulfonyl)oxy)phenyl)piperidine-1-carboxylate | 272 mg | FC1(CN(CCC1C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C)F | C17H20F5NO5S
reactant | bis(pinacolato)diboron | 186 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 179 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 3,3-difluoro-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidine-1-carboxylate | 155 mg | FC1(CN(CCC1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C)F | C22H32BF2NO4
